US05639770
0.7 g of 3,4-diethoxythiobenzamide and 20 ml of ethanol were added to 0.77 g of 2-ethoxycarbonyl-3-hydroxy-6-(2-bromoacetyl)pyridine. The mixture was refluxed for 3 hours. Ethanol was removed by distillation. To the residue was added ethyl acetate-dichloromethane to give rise to crystallization to obtain 0.62 g of 2-(3,4-diethoxyphenyl)-4-(5-hydroxy-6-ethoxycarbonyl-2-pyridyl)thiazole.

reactant | 3,4-diethoxythiobenzamide | 0.7 g | C(C)OC=1C=C(C(=S)N)C=CC1OCC | C11H15NO2S
reactant | 2-ethoxycarbonyl-3-hydroxy-6-(2-bromoacetyl)pyridine | 0.77 g | C(C)OC(=O)C1=NC(=CC=C1O)C(CBr)=O | C10H10BrNO4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(3,4-diethoxyphenyl)-4-(5-hydroxy-6-ethoxycarbonyl-2-pyridyl)thiazole | 0.62 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=C(C=C1)O)C(=O)OCC | C21H22N2O5S
